US07507740B2
Production of N-{4-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]phenyl}-2-methoxyacetamide
A solution of 6-(4-aminophenyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine (100 mg), methoxyacetic acid (29.4 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (94 mg), 1-hydroxybenzotriazole monohydrate (75 mg) and triethylamine (0.23 mL) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 20 hrs. Methoxyacetic acid (29.4 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (94 mg) and 1-hydroxybenzotriazole monohydrate (75 mg) were added to the reaction system, and the mixture was further stirred for 24 hrs. Water was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the residue was separated and purified by column chromatography (basic silica gel, eluent, ethyl acetate→methanol:ethyl acetate=14:85) to give the title compound (63.5 mg) as pale-brown powder crystals.

reactant | 6-(4-aminophenyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 100 mg | NC1=CC=C(C=C1)C1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C25H19ClFN5O
reactant | methoxyacetic acid | 29.4 mg | COCC(=O)O | C3H6O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 94 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 75 mg | O.ON1N=NC2=C1C=CC=C2
reactant | Methoxyacetic acid | 29.4 mg | COCC(=O)O | C3H6O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 94 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 75 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 0.23 mL | C(C)N(CC)CC | C6H15N
product | N-{4-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]phenyl}-2-methoxyacetamide | 63.5 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C=C2)NC(COC)=O | C28H23ClFN5O3
